US06680317B2
e) Preparation of N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2,3-difluorophenyl)cyanoguanidine
Following the general procedure for cyanoguanidine formation outlined in example 12, N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2,3-difluorophenyl)carbodiimide (340 mg, 0.68 mmol), cyanamide (114 mg, 2.72 mmol) and N,N-disopropylethylamine (106 mg, 0.82 mmol) were reacted, followed by desilylation with Cesium fluoride (124 mg, 0.82 mmol) to form the desired product (10 mg, 3.4%). EI-MS m/z 430.0 (M+). 1H NMR (DMSO-d6) δ 2.87 (s, 6H), 7.21 (m, 3H), 7.30 (m, 1H), 7.54 (d, 1H), 9.2 (s, 1H), 10.54 (s, 1H).

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2,3-difluorophenyl)carbodiimide | 0.68 mmol, 340 mg | ClC1=C(C(=C(C=C1)N=C=NC1=C(C(=CC=C1)F)F)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N(C)C | C21H26ClF2N3O3SSi
reactant | cyanamide | 2.72 mmol, 114 mg | N#CN | CH2N2
reactant | Cesium fluoride | 0.82 mmol, 124 mg | [F-].[Cs+]
product | N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2,3-difluorophenyl)cyanoguanidine | 10 mg, 3.4% | ClC1=C(C(=C(C=C1)N(C(=N)NC1=C(C(=CC=C1)F)F)C#N)O)S(=O)(=O)N(C)C | C16H14ClF2N5O3S
